*$
* LM5156-Q1
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM5156-Q1
* Date: 28JUN2021
* Model Type: AVERAGE
* Simulator: PSPICE
* Simulator Version: 17.2
* EVM Order Number: LM5156EVM-BST
* EVM Users Guide: SNVU696–February 2020
* Datasheet: SNVSBI7B –January 2020–REVISED January 2021
* Topologies supported: Boost
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* 
* 1. Since this is an average model used for AC analysis, 
*    only the pins affecting AC analysis are modeled.
* 2. The model takes the inductance (L), Current sense Resistors(R4, R5 & R6)
*    and Mosfet ON resistance (Ron) as parameters.
*    Pass appropriate values to these parameters based
*    on the application circuit. 
* 3. The operating quiescent current and thermal properties 
*    have not been modeled.
* 4. The dithering feature is not modeled.
*
*****************************************************************************
.SUBCKT LM5156-Q1_AVG GND COMP cs FB DITHOFF RT S SW Vin VOUT PARAMS: L=6.8u R4=1u R5=100 R6=0.008 Ron=5.7m 
D_D11         COMP N16846415 D_D1 
R_R1         COMP_BUFF_DIVIDED N16887645  300k  
V_V5         N16846415 GND 2.5
D_D10         N16846449 COMP D_D1 
C_C7         N00275 FB  1f  
R_R4         GND COMP_BUFF_DIVIDED  50k  
E_ABM7         FS 0 VALUE { 2.21e10/((0.5/V(IRT)) +955)    }
V_V3         N16846449 GND 1.1
E_E1         N16887645 0 COMP 0 1
R_R2         COMP GND  5MEG TC=0,0 
X_H1    N16933535 RT IRT GND LM5156-Q1_AVG_H1 
V_V8         N16778503 GND 3
V_V1         N00275 GND 1
C_C6         GND COMP  2p  
R_R3         FB N00275  100MEG TC=0,0 
V_V9         N16933535 0 0.5
G_G1         N16778503 COMP FB N00275 -2m
E_ABM80         NUM 0 VALUE { V(IC_INT)-V(IS)    }
E_ABM8         IS 0 VALUE { V(CS)/{MAX(v(d), 0.02)}    }
E_ABM82         IND_SLOPE 0 VALUE { V(VIN) *{R6}/{L}    }
E_ABM70         IC_INT 0 VALUE { V(COMP_BUFF_DIVIDED) -0.17    }
E_ABM83         DENOM 0 VALUE { V(IND_SLOPE)/2/V(Fs)+40m+30u*({R4}+{R5}+{R6})  
+   }
E_ABM10         D 0 VALUE { (V(NUM)/V(DENOM))    }
X_U2         SW S VOUT D CCMDCM PARAMS: RON={Ron}
.ENDS LM5156-Q1_AVG
*$
.subckt LM5156-Q1_AVG_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends LM5156-Q1_AVG_H1
*$
.model D_D1 d
+ is=1e-015
+ rs=0.005
+ n=0.01
*$
.subckt CCMDCM 1 2 3 5 PARAMS: Ron={Ron}
Eron 1 001 value={I(Et)*(({Ron}/V(u)))}
Et 001 2 value={((1-v(u))*(v(3,1))/v(u))+((1-v(u))*500m/v(u))}
Gd 1 3 value={(1-v(u))*I(Et)/v(u)}
Eu u 0 table {MAX(v(5), 0.02)} (0 0) (1 1)
.ends
*$
.subckt SW_AVG_CCM D S K A Dc PARAMS: Ron=5m Vf=0.5
Et D S value={((1-v(u))*(v(K,A)+Ron*I(Et))/v(u))+(1-v(u))*Vf}
Gd A K value={(1-v(u))*I(Et)/v(u)}
Eu u 0 value={LIMIT(v(Dc),0.01,1)}
.ends
*$